US08222286B2
Intermediate 11: (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethoxy)-propionic acid
A mixture of (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethoxy)-propionic acid benzyl ester and 10% Pd/C wet in EtOAc was hydrogenated under H2 balloon for 30 mins. The reaction was filtered off the catalyst and concentrated. The residue was purified by HPLC (15 to 70% ACN—H2O (0.1% TFA)) to give oil: 128 mg. HPLC retention time=1.07 minutes (condition C); MS (m−1)=375.

reactant | (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethoxy)-propionic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O[C@@H](C)C(=O)OCC)=O | C27H27ClO5
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | (S)-3-(3′-chloro-biphenyl-4-yl)-2-((S)-1-ethoxycarbonyl-ethoxy)-propionic acid | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)O[C@@H](C)C(=O)OCC | C20H21ClO5
